US07435731B2
Powdered KOH (1.0 g) was taken up in 4 mL of 2,4-difluorophenol, and the resulting mixture was heated at 120° C. for 15 minutes. (S)-3-(2-Chloro-phenyl)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-6-methylsulfonyl-1H-pyrazolo[3,4-d]pyrimidine (1.34 g, 0.305 mmol) was added, and the reaction mixture was stirred for one hour at 120° C. The reaction mixture was cooled to room temperature, partitioned between water (100 mL) and EtOAc (300 ML0, and the layers were separated. The organic layer was washed three times with 2N aqueous NaOH, once with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by preparative scale TLC (50% MeOH in methylene chloride to provide 1.395 mg of (S)-3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1H-pyrazolo[3,4-d]pyrimidine. Mass Spec. M+H=489. Mp.=70.1-75.9° C.

reactant | KOH | 1.0 g | [OH-].[K+]
reactant | (S)-3-(2-Chloro-phenyl)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-6-methylsulfonyl-1H-pyrazolo[3,4-d]pyrimidine | 0.305 mmol, 1.34 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)OC[C@@H]2OC(OC2)(C)C)S(=O)(=O)C | C18H19ClN4O5S
reactant | 2,4-difluorophenol | 4 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | (S)-3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1H-pyrazolo[3,4-d]pyrimidine | 1.395 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)OC[C@@H]2OC(OC2)(C)C)OC2=C(C=C(C=C2)F)F | C23H19ClF2N4O4
